US04011243
1.67 Ml. of 1.0 molar borane in tetrahydrofuran is added to an ice-cooled solution of 1.23 gm. of 2-(2-propenyl) 5H-dibenzo[a,d]cyclohepten-5-one in 10 ml. of tetrahydrofuran. The mixture is stirred for 2 hours and then 5 ml. of 3.0 molar aqueous sodium hydroxide and 1.5 ml. of 30% hydrogen peroxide are added. The reaction is left for one hour and then water and ether are added. The ethereal layer is washed, dried and evaporated. The product is chromatographed on 50 gm. silica gel, eluting with 1:1 ether/hexane, so as to obtain a 50% yield of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propan-1-ol, m.p. (hexane) 63°-66° C.

reactant | borane | 1.0 molar | B | BH3
reactant | 2-(2-propenyl) 5H-dibenzo[a,d]cyclohepten-5-one | C(C=C)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C18H14O
reactant | sodium hydroxide | 3.0 molar | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propan-1-ol | 50% yield | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)C(CO)C | C18H16O2
